datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]=[C:11]([C:12](=[C:13]([H:18])[H:19])[H:17])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:11]([C:10]=[C:9]([H:14])[H:15])([C:12](=[C:13]([H:18])[H:19])[H:17])[H:16])[H:4],45.5219
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8]([H:12])([H:13])[H:14])[C:9]([H:15])([H:16])[H:17])([H:10])[H:11]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:6]([C:7]([C:8]([H:12])([H:13])[H:14])[C:9]([H:15])([H:16])[H:17])([H:10])[H:11])[H:3],36.1916
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])[C:4](=[C:5]([C:6]([C:7]([C:8](=[C:9]([H:21])[H:22])[H:20])=[C:10]([C:11]([H:24])([H:25])[H:26])[H:23])([H:18])[H:19])[H:17])[H:16])[H:12]>>[C:0](#[C:1][C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])=[C:5]([H:17])[C:6]([H:18])([H:19])[C:7]([C:8](=[C:9]([H:21])[H:22])[H:20])[C:10]1([C:11]([H:24])([H:25])[H:26])[H:23])[H:12],106.692
[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([C:6]([H:13])([H:14])[H:15])[C:7]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])[H:9])[H:8]>>[C:0](#[C:1][C:2]1([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])[C:5]1([C:6]([H:13])([H:14])[H:15])[C:7]([H:16])([H:17])[H:18])[H:8],159.201
[C:0]([C:1]1=[C:2]([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])[C:5]1([H:13])[H:14])([H:6])([H:7])[H:8]>>[C:0]([C:1]1=[C:2]([H:9])[C:3]([H:11])=[C:4]([H:12])[C:5]1([H:13])[H:14])([H:6])([H:7])[H:8].[H:10],136.8168
[C:0](=[C:1]=[C:2]([H:4])[H:5])[H:3].[c:6]1([H:12])[c:7]([H:13])[c:8]([H:14])[c:9]([H:15])[c:10]([H:16])[c:11]1[H:17]>>[C:0](=[C:1]=[C:2]([H:4])[H:5])([H:3])[C:6]1([H:12])[C:7]([H:13])[C:8]([H:14])=[C:9]([H:15])[C:10]([H:16])=[C:11]1[H:17],68.600864
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[O:12][O:13]>>[C:0](=[C:1]([C:2]([C:3]([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[H:9][O:12][O:13],213.09112
[C:0](=[C:1]([C:2]#[C:3][C:4]([H:8])([H:9])[H:10])[H:7])([H:5])[H:6].[c:11]1[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]1[H:21]>>[C:0](=[C:1]([C:2](=[C:3][C:4]([H:8])([H:9])[H:10])[c:11]1[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]1[H:21])[H:7])([H:5])[H:6],11.9244
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7](=[C:8][C:9](=[C:10]([H:14])[H:15])[H:13])([H:11])[H:12]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][C:8](=[C:7]([H:11])[H:12])[C:9](=[C:10]([H:14])[H:15])[H:13],34.7272
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[H:6])([H:4])[H:5].[C:10]([C:11]([C:12]([H:22])([H:23])[H:24])[c:13]1[c:14]([H:25])[c:15]([H:26])[c:16]([H:27])[c:17]([H:28])[c:18]1[H:29])([H:19])([H:20])[H:21]>>[C:0](=[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:6])[C:11]([C:10]([H:19])([H:20])[H:21])([C:12]([H:22])([H:23])[H:24])[c:13]1[c:14]([H:25])[c:15]([H:26])[c:16]([H:27])[c:17]([H:28])[c:18]1[H:29])([H:4])[H:5],43.5554
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8](=[C:9][C:10](=[C:11]([H:15])[H:16])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[H:7][C:9](=[C:8]([H:12])[H:13])[C:10](=[C:11]([H:15])[H:16])[H:14],26.7776
[C:0]([C:1](=[C:2]([C:3]([H:19])([H:20])[H:21])[c:4]1[c:5]([H:22])[c:6]([H:23])[c:7]([H:24])[c:8]([H:25])[c:9]1[H:26])[c:10]1[c:11]([H:27])[c:12]([H:28])[c:13]([H:29])[c:14]([H:30])[c:15]1[H:31])([H:16])([H:17])[H:18].[C:32]([C:33]([C:34]([H:39])([H:40])[H:41])[C:35]([H:42])([H:43])[H:44])([H:36])([H:37])[H:38]>>[C:0]([C:1]([C:2]([C:3]([H:19])([H:20])[H:21])[c:4]1[c:5]([H:22])[c:6]([H:23])[c:7]([H:24])[c:8]([H:25])[c:9]1[H:26])([c:10]1[c:11]([H:27])[c:12]([H:28])[c:13]([H:29])[c:14]([H:30])[c:15]1[H:31])[C:33]([C:32]([H:36])([H:37])[H:38])([C:34]([H:39])([H:40])[H:41])[C:35]([H:42])([H:43])[H:44])([H:16])([H:17])[H:18],21.0874
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7](=[C:8]([C:9]([C:10](=[C:11]([H:17])[H:18])[H:16])[H:15])[H:14])([H:12])[H:13]>>[C:0]([C:1](=[C:2]([H:5])[H:6])[C:9]([C:8](=[C:7]([H:12])[H:13])[H:14])([C:10](=[C:11]([H:17])[H:18])[H:16])[H:15])([H:3])[H:4],77.8224
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7](=[C:8]([H:10])[H:11])[H:9]>>[C:0](=[C:1][S:2][H:6])([H:3])[H:4].[H:5][C:7](=[C:8]([H:10])[H:11])[H:9],8.7864
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])([c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])[H:12])([H:9])([H:10])[H:11].[c:21]1[c:22]([H:27])[c:23]([H:28])[c:24]([H:29])[c:25]([H:30])[c:26]1[H:31]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])([H:9])([H:10])[H:11].[H:12][c:21]1[c:22]([H:27])[c:23]([H:28])[c:24]([H:29])[c:25]([H:30])[c:26]1[H:31],-15.0624
[O:0]([O:1][H:3])[H:2].[O:4][H:5]>>[H:2][O:4][H:5].[O:0][O:1][H:3],5.57
[C:0](#[C:1][c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]2[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]12)[H:12].[H:20]>>[C:0](#[C:1][c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]2[c:7]([H:16])[c:8]([H:17])[c:9][c:10]([H:19])[c:11]12)[H:12].[H:18][H:20],70.379064
